US07666888B2
4-{[3-(4-Fluorobenzyl)pyrrolidin-1-yl]carbonyl}-5-(4-methylphenyl)isoxazole
The title compound was prepared from 5-(4-methylphenyl)isoxazole-4-carboxylic acid (10.2 mg, 0.050 mmol) and 3-(4-fluorobenzyl)pyrrolidine hydrochloride (12.9 mg, 0.060 mmol) as described in synthetic method B and thereafter purified by preparative HPLC method B to give a solid (6.3 mg). Calcd for C22H21FN2O2: 364.1587, found 364.1604.

reactant | 5-(4-methylphenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 10.2 mg | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)O | C11H9NO3
reactant | 3-(4-fluorobenzyl)pyrrolidine hydrochloride | 0.060 mmol, 12.9 mg | Cl.FC1=CC=C(CC2CNCC2)C=C1
product | 4-{[3-(4-Fluorobenzyl)pyrrolidin-1-yl]carbonyl}-5-(4-methylphenyl)isoxazole | FC1=CC=C(CC2CN(CC2)C(=O)C=2C=NOC2C2=CC=C(C=C2)C)C=C1 | C22H21FN2O2
